US05925676
To a solution mixture of 4.5 g of 3,4-dibromocyclopenten-1-yl (t-butyldiphenylsilyl) ether and 50 ml of tetrahydrofuran were added at room temperature 910 mg of sodium amide and 3.25 g of t-butoxysodium, and the resulting mixture was stirred for 3.5 hours. The reaction liquid obtained was after-treated and purified in the same manner as in (1) of the intermediate preparation example 1 to obtain 2.53 g of (RS)-3-bromo-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether. Yield 68%

reactant | 3,4-dibromocyclopenten-1-yl (t-butyldiphenylsilyl) ether | 4.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC(C(C1)Br)Br | C21H24Br2OSi
reactant | sodium amide | 910 mg | [NH2-].[Na+]
reactant | t-butoxysodium | 3.25 g | C(C)(C)(C)O[Na]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (RS)-3-bromo-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 2.53 g, Yield 68% | [Si](C)(C)(C(C)(C)C)OC1CC(=CC1)Br | C11H21BrOSi
